### PR TITLE
Sheaf of rings on Spec R

### PR DESCRIPTION
**Pull request by timcherganov**
#1316

### CODE REVIEW

File: UniMath/AlgebraicGeometry/Sheaf.v [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+  Definition open_po : po (@Open X) :=
+    make_po _ (isporesrel _ _ (subtype_containment_ispreorder X)).
+
+  Definition open_category : category := po_category open_po.
+End open_category.
+
+
+Section sheaf_commring_prop.
+  Context {X : TopologicalSet}
+          (F' : functor_data (open_category X)^op commring_precategory).
```
Comment (DanGrayson) [inline UniMath/AlgebraicGeometry/Sheaf.v:31]: Why is F' just functor_data and not a functor?

File: UniMath/AlgebraicGeometry/Sheaf.v [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+
+  Definition F (U : Open) : commring := F' U.
+
+  Definition restriction {U V : Open} (H : U ⊆ V) : ringfun (F V) (F U) := #F' H.
+
+  Definition restrict {A : hsubtype Open} (f : F (⋃ A)) (U : A) : F (pr1 U) :=
```
Comment (DanGrayson) [inline UniMath/AlgebraicGeometry/Sheaf.v:37]: I think later code would be more readable if A were an explicit argument.

File: UniMath/AlgebraicGeometry/Sheaf.v [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+  Context (X : TopologicalSet).
+
+  Definition open_po : po (@Open X) :=
+    make_po _ (isporesrel _ _ (subtype_containment_ispreorder X)).
+
+  Definition open_category : category := po_category open_po.
+End open_category.
+
+
+Section sheaf_commring_prop.
```
Comment (DanGrayson) [inline UniMath/AlgebraicGeometry/Sheaf.v:29]: It would be desirable to handle sheaves of other types of things, too, not just rings.  Can you think of a way to do that?  If not, maybe the name of this file should be `SheavesOfRings.v` instead.

File: UniMath/AlgebraicGeometry/Spec.v [hunk 4]
```diff
@@ -101,35 +113,37 @@ Section spec.
...
+  Definition spec : TopologicalSpace :=
+    mkTopologicalSpace (make_hSet (prime_ideal R) isaset_prime_ideal)
+                       zariski_topology
+                       zariski_topology_union
+                       zariski_topology_htrue
+                       zariski_topology_and.
 End spec.
 
-Arguments spec_top _ : clear implicits.
+Arguments spec _ : clear implicits.
```
Comment (DanGrayson) [inline UniMath/AlgebraicGeometry/Spec.v:124]: Maybe take advantage of the opportunity to capitalize `Spec` here.

File: UniMath/AlgebraicGeometry/Topology.v [hunk 5]
```diff
@@ -0,0 +1,85 @@
+(* Additional definitions and facts from topology. Maybe this should go in UniMath.Topology. *)
+
+Require Import UniMath.MoreFoundations.Subtypes.
+Require Import UniMath.Topology.Topology.
+
+Local Open Scope subtype.
+
+Section top.
+  Definition TopologicalSpace : UU := ∑ X : hSet, isTopologicalSet X.
```
Comment (DanGrayson) [inline UniMath/AlgebraicGeometry/Topology.v:9]: Good.  Later on we should phase out "TopologicalSet".

**Review by DanGrayson — CHANGES_REQUESTED** [review]
Thank you for the contribution, it is appreciated.

In this review I make some minor comments.

File: UniMath/Algebra/RigsAndRings/Ideals.v [hunk 6]
```diff
@@ -64,11 +64,19 @@ Section Definitions.
   Definition ideal_isl (I : ideal) : is_lideal I := pr12 I.
 
   Definition ideal_isr (I : ideal) : is_rideal I := pr22 I.
+
+  Lemma isaset_ideal : isaset ideal.
+  Proof.
+    apply isaset_total2.
+    - apply isaset_submonoid.
+    - intro S. apply isasetaprop, propproperty.
+  Qed.
```
[the remark this answers is not in the document]
Comment (timcherganov) [reply UniMath/Algebra/RigsAndRings/Ideals.v:73]: No particular reason. Do you think it's better to use `Defined` here?

File: UniMath/AlgebraicGeometry/Sheaf.v (hunk 1 above)
Comment (timcherganov) [reply UniMath/AlgebraicGeometry/Sheaf.v:31]: There is no need in functoriality for the definition of locality and gluing.

File: UniMath/Algebra/RigsAndRings/Ideals.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (DanGrayson) [reply UniMath/Algebra/RigsAndRings/Ideals.v:73]: I always prefer "Defined" so things compute.  @benediktahrens may have a different opinion.

[the remark this answers is not in the document]
Comment (benediktahrens) [reply UniMath/Algebra/RigsAndRings/Ideals.v:73]: 1. Sometimes making things opaque is necessary for type-checking to terminate in a reasonable amount of time. 
2. I would be surprised if this particular proof would ever participate in a computation. Also, the particular shape of the proof does not make it seem particularly well-behaved in a computation.

Because of 2, I think it probably does not matter so much whether the proof is opaque or transparent. I would make it opaque myself, but I am fine with either choice.

**Comment by DanGrayson** [comment]
@benediktahrens --

Look at the error: **The term "C" has type "precategory" while it is expected to have type "category".**

**Comment by benediktahrens** [comment]
> @benediktahrens --
> 
> Look at the error: **The term "C" has type "precategory" while it is expected to have type "category".**

This is the error message from compiling the satellite repository https://github.com/UniMath/largecatmodules. I am in the process of fixing the satellites.

Compilation of UniMath/UniMath works fine with this PR.

**Comment by DanGrayson** [comment]
Thank you for the contribution!
